US07179823B1
A solution of p-toluenesulfonylmethylisocyanide (12.3 g) in dimethoxyethane (60 ml) was added to a mixture of potassium t-butoxide (13.5 g) and dimethoxyethane (60 ml) at −78° C., and the resultant was stirred for 5 minutes. A solution of 1-benzyl-5-phenyl-1H-pyrazol-4-carbaldehyde (13.0 g) in dimethoxyethane (60 ml) was added to the mixture. After stirring at the same temperature for 1 hour, the mixture was stirred for 1 hour while raising the temperature. Methanol (180 ml) was added to the mixture, and refluxed for 1 hour. After cooling, the reaction solution was poured into saturated aqueous ammonium chloride solution, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). A mixture of the resulting colorless oily substance, 4N aqueous sodium hydroxide solution (100 ml), tetrahydrofuran (100 ml) and ethanol (100 ml) was refluxed for 3 days. After cooling, the mixture was neutralized with dilute hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. A mixture of the residue, ethyl iodide (6.5 ml), potassium carbonate (14.9 g) and N,N-dimethylformamide (150 ml) was stirred at room temperature for 3 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography to obtain a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:2, volume ratio). A mixture of the resulting oily substance, 5% palladium-carbon (30.0 g), formic acid (80 ml) and ethanol (160 ml) was refluxed for 1 hour. After cooling, the palladium-carbon was removed by filtration, and the filtrate was concentrated. The residue was dissolved in ethyl acetate, which was washed with saturated aqueous sodium bicarbonate solution, then with saturated aqueous sodium chloride solution, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to obtain ethyl 3-phenyl-1H-pyrazol-4-ylacetate (4.65 g, yield 34%) as a colorless oily substance from the fraction eluted with ethyl acetate-hexane (1:1, volume ratio).

reactant | p-toluenesulfonylmethylisocyanide | 12.3 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | potassium t-butoxide | 13.5 g | CC(C)([O-])C.[K+]
reactant | 1-benzyl-5-phenyl-1H-pyrazol-4-carbaldehyde | 13.0 g | C(C1=CC=CC=C1)N1N=CC(=C1C1=CC=CC=C1)C=O | C17H14N2O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
solvent | Methanol | 180 ml | CO | CH4O
product | ethyl 3-phenyl-1H-pyrazol-4-ylacetate | 4.65 g, yield 34% | C1(=CC=CC=C1)C1=NNC=C1CC(=O)OCC | C13H14N2O2
